2178-04-27 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2178-4-26**] 03:02 PM
 EKG - At [**2178-4-26**] 09:00 PM
 EKG - At [**2178-4-26**] 09:00 PM
   team called with acute sob
   - Patient had episode of asystole with 20sec pause with bowel
   movement.  Review of tele appeared to have sinus brady and slowing
   before 20sec pause then sinus tachy with recovering of pulse.  Code
   blue was called but patient quickly recovered blood pressure, heart
   rate and respirations wihtout intervention.  Patient was transferred
   back to the CCU. She had hypotension upon return to the unit which
   improved with 1L bolus of fluids. Also received stress dose of
   hydrocortisone 100mg IV once.
   -also called for hypoxia desat to low 80s with hypertension and
   bradycardia, sounded crackly given 20mg IV lasix and put out 1L, sats
   improved with 40% NRB thought flashed
   This am feels better. Has some congestion that is coming up with
   coughing.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Demerol (Injection) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-4-27**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-4-27**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 71 (51 - 86) bpm
   BP: 119/50(66) {78/33(45) - 187/67(93)} mmHg
   RR: 19 (17 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  2,107 mL
                                                                     55 mL
   PO:
                                                                    330 mL
             TF:
   IVF:
                                                                  1,417 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    277 mL
   Urine:
                                                                  1,175 mL
                                                                    277 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     82 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: ///40/
   Physical Examination
   GEN: A+Ox3, NAD, answers questions appropriately
   HEENT: PERRL, EOMI, OP clear, MMM
   NECK: JVP to angle of jaw
   CV: RRR, no M/G/R, PMI at 5th intercostal space midclavicular line, no
   heaves or thrills
   PULM: Diffuse crackles 1/3 up to bases minimal expiratory wheezing, no
   rhonchi.
   ABD: Soft, NT, ND, +BS
   EXT: No peripheral edema
   NEURO: CN II-XII intact, mobilizes all extremities
   Labs / Radiology
   231 K/uL
   10.9 g/dL
   122 mg/dL
   0.8 mg/dL
   40 mEq/L
   3.9 mEq/L
   26 mg/dL
   92 mEq/L
   138 mEq/L
   33.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2178-4-21**]  11:56 PM
                             [**2178-4-22**]  02:14 AM
                             [**2178-4-22**]  02:51 AM
                             [**2178-4-23**]  05:05 AM
                             [**2178-4-23**]  04:53 PM
                             [**2178-4-24**]  03:19 AM
                             [**2178-4-24**]  04:18 PM
                             [**2178-4-26**]  02:13 PM
                             [**2178-4-26**]  08:25 PM
                             [**2178-4-27**]  03:39 AM
   WBC
   10.0
   8.1
   9.0
   9.0
   Hct
   37.8
   32.8
   32.9
   32.0
   31.4
   33.0
   Plt
   [**Telephone/Fax (3) 6631**]31
   Cr
   1.0
   0.7
   0.8
   0.7
   0.8
   1.0
   0.8
   TropT
   0.56
   TCO2
   32
   31
   Glucose
   282
   123
   117
   95
   136
   159
   122
   Other labs: PT / PTT / INR:13.4/31.8/1.2, CK / CKMB /
   Troponin-T:22/15/0.56, ALT / AST:165/68, Alk Phos / T Bili:83/0.2,
   Lactic Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:417 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan: 75 F with COPD, htn, bilateral hip replacement now
   with NSTEMI, CHF and COPD flare, complicated by hypercarbic respiratory
   failure, now resolved.
   .
   #s/p Vagal episode: Likely has sinus node dysfunction and has also
   recently been started on amio and beta blockers to control heart rate.
   Will likely need PPM to control bradycardic episodes so she can
   continue on amio and beta blockers as o/p for Hr control as well as
   CAD.
   -          EP consult today for possible PPM tomorrow
   -          D/C amio and beta blocker
   -          Hold coumadin in prep for PPM placement-  restart after PPM
   for CVA ppx for AFib
   .
   #Afib/flutter with RVR: Sinus now, no arrhythmias overnight.
   - Holding carvedilol, amiodarone, warfarin (not bridging with heparin
   given pt in sinus rhythm) as above. No tachyarrhythmias on tele
   overnight after vagal episode
   .
   #NSTEMI: s/p LAD [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 4
   - Cont asa, plavix, [**Last Name (un) **], statin
   - Encourage tobacco cessation
   - Holding Beta blocker, as above
   .
   #Acute on chronic systolic and diastolic HF: EF 40-45% this admission.
   Looks overall euvolemic, although still with mild crackles on pulm
   exam. Given lasix 20mg IV lasix this am.
   - [**First Name9 (NamePattern2) **] [**Last Name (un) **]
   - resume lasix 20mg PO daily in am to maintain I/O even to 500ml
   negative as required IV lasix yesterday after having it held in setting
   of hypotension
   .
   #COPD: Hyperinflated lungs with hypercarbia consistent with COPD. Being
   treated for exacerbation. Sputum with only sparse yeast/mold.
   - Completed course of levoflox x 5 days
   - Quick steroid taper, especially in setting of active MI, continue 5mg
   for 1 more days
   - Cont home inhalers
   - add standing xopenox and d/c ipratropium nebs
   .
   HTN: home [**Last Name (un) **] and carvedilol
   .
   Depression, Anxiety: paxil and klonipin PRN for sleep
   .
   FEN: Cardiac diet
   .
   PPX: sq heparin, eating
   .
   CODE: full
   .
   DISPO: pending PT eval and rehab placement
   .
   CONTACT: [**Name (NI) 186**] [**Name (NI) 6509**] H [**Telephone/Fax (1) 6510**], W [**Telephone/Fax (1) 6511**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2178-4-26**] 04:23 PM
   22 Gauge - [**2178-4-26**] 04:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: